US07115627B2
Part A: A 500 mL flask was charged with N-(3-chlorophenyl)-1-(ethoxycarbonyl)-methanehydrazonoyl chloride (3.67 g, 14.1 mmol), 3-morpholin-4-yl-1-(4-nitro-phenyl)-5,6-dihydro-1H-pyridin-2-one (2.14 g, 7.05 mmol), 50 mL of toluene, and triethylamine (3.57 g, 35.3 mmol). The mixture was heated at 80° C. overnight. After cooling to room temperature, the reaction mixture was treated with trifuloroacetic acid (10.1 g) at rt for 5 h. The mixture was concentrated to dryness under reduced pressure. The residue was dissolved in methylene chloride, washed water and brine, and dried with sodium sulfate. The crude product, after evaporation of the solvent, was purified by silica gel chromatography, eluting with 1:2 ethyl acetate/hexane to yield 1-(3-chloro-phenyl)-6-(4-nitro-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester (1.48 g). 1H NMR (300 MHz, CDCl3) δ 8.24 (2H, d, J=9.1 Hz), 7.60 (1H, t, J=1.8 Hz), 7.52 (2H, d, J=9.1 Hz), 7.47˜7.36(2H, m), 4.48 (2H, q, J=7.0 Hz), 4.22 (2H, t, J=6.6 Hz), 3.39 (2H, t, J=6.6 Hz), 1.45 (3H, t, J=7.0 Hz) ppm.

reactant | N-(3-chlorophenyl)-1-(ethoxycarbonyl)-methanehydrazonoyl chloride | 14.1 mmol, 3.67 g | ClC=1C=C(C=CC1)NN=C(C(=O)OCC)Cl | C10H10Cl2N2O2
reactant | 3-morpholin-4-yl-1-(4-nitro-phenyl)-5,6-dihydro-1H-pyridin-2-one | 7.05 mmol, 2.14 g | N1(CCOCC1)C=1C(N(CCC1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C15H17N3O4
reactant | triethylamine | 35.3 mmol, 3.57 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3-chloro-phenyl)-6-(4-nitro-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester | 1.48 g | C(C)OC(=O)C1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)[N+](=O)[O-])=O)C2=CC(=CC=C2)Cl | C21H17ClN4O5
